US07777047B2
N-[2-(8-acetyl-1-thia-3,8-diazaspiro[4.5]dec-2-en-2-yl)-1H-indol-7-yl]-N-methylthiophene-2-sulfonamide
To a solution of N-methyl-N-[2-(1-thia-3,8-diazaspiro[4.5]dec-2-en-2-yl)-1H-indol-7-yl]thiophene-2-sulfonamide (100 mg), pyridine (0.022 ml), tetrahydrofuran (2 ml) and acetonitrile (1 ml) was slowly added acetic anhydride (0.022 ml) at 0° C., and the mixture was stirred for 1 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed successively with 1N hydrochloric acid, saturated aqueous sodium hydrogencarbonate and saturated brine, dried (Na2SO4), and concentrated. The obtained crystals were recrystallized from tetrahydrofuran-heptane to give the title compound (88 mg, yield 82%) as colorless crystals. melting point 216-218° C.

reactant | N-methyl-N-[2-(1-thia-3,8-diazaspiro[4.5]dec-2-en-2-yl)-1H-indol-7-yl]thiophene-2-sulfonamide | 100 mg | CN(S(=O)(=O)C=1SC=CC1)C=1C=CC=C2C=C(NC12)C=1SC2(CN1)CCNCC2 | C20H22N4O2S3
reactant | pyridine | 0.022 ml | N1=CC=CC=C1 | C5H5N
reactant | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
reactant | acetic anhydride | 0.022 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | Water | O | H2O
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
product | N-[2-(8-acetyl-1-thia-3,8-diazaspiro[4.5]dec-2-en-2-yl)-1H-indol-7-yl]-N-methylthiophene-2-sulfonamide | 88 mg, yield 82% | C(C)(=O)N1CCC2(CN=C(S2)C=2NC3=C(C=CC=C3C2)N(S(=O)(=O)C=2SC=CC2)C)CC1 | C22H24N4O3S3
